US07229943B2
Preparation of N-[(1E)-1H-benzimidazol-2-ylmethylene]-N-[2-(trifluoromethyl)benzyl]amine (L-10)
A mixture of 1.1 g (7.5 mmol) 1H-benzimidazole-2-carbaldehyde (Fluorochem), 1.3 g (7.5 mmol) 2-trifluoromethylbenzylamine and 1 drop glacial acetic acid in 10 ml methanol was stirred at room temperature for 72 hours. The resulted yellow solution was evaporated to c.a. 2–3 ml, cooled to −40° C. and the formed solid filtered. It was washed with methanol/water mixture (1/2) and dried under reduced pressure. Yield—1.96 g (86.4%). 1H NMR (250 MHz, D2-DCM), δ: 5.03 (s, 2H), 7.28–7.69 (m, 8H), 8.46 (s, 1H).

reactant | 1H-benzimidazole-2-carbaldehyde | 7.5 mmol, 1.1 g | N1C(=NC2=C1C=CC=C2)C=O | C8H6N2O
reactant | 2-trifluoromethylbenzylamine | 7.5 mmol, 1.3 g | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | N-[(1E)-1H-benzimidazol-2-ylmethylene]-N-[2-(trifluoromethyl)benzyl]amine | N1C(=NC2=C1C=CC=C2)\C=N\CC2=C(C=CC=C2)C(F)(F)F | C16H12F3N3
